US05025036
A mixture of 2.4 g (5.3 mmole) of 1-(6-bromohexyl)-2,3-bis-(phenylmethoxy)benzene, 0.88 g (5.3 mmole) of 4-hydroxybenzoic acid ethyl ester, 2.5 g (18 mmole) of potassium carbonate and 0.8 g (5.3 mmole) of sodium iodide in 40 mL of acetone was stirred at reflux for 22 hours. Workup as in Example 16 and recrystallization of the crude product from ethyl acetate-hexane gave 2.3 g, mp 63°-65° (81% yield) of 4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid ethyl ester.

reactant | 1-(6-bromohexyl)-2,3-bis-(phenylmethoxy)benzene | 5.3 mmole, 2.4 g | BrCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29BrO2
reactant | 4-hydroxybenzoic acid ethyl ester | 5.3 mmole, 0.88 g | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | potassium carbonate | 18 mmole, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 5.3 mmole, 0.8 g | [I-].[Na+]
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 4-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid ethyl ester | 2.3 g, 81% yield | C(C)OC(C1=CC=C(C=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C35H38O5
